US07514470B2
A. 4-[(2,2,2-Trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
To a slurry of 4-amino-2-(trifluoromethyl)benzonitrile (30.09 g, 162 mmol) and NaBH3CN (21.35 g, 340 mmol) in CH2Cl2 (160 mL) at ice bath temperature was added neat TFA (160 mL, 2.08 mol), dropwise at a rate such that the internal temperature remained below 5° C. (CAUTION: exothermic reaction with hydrogen gas evolution). Trifluoroacetaldehyde hydrate (52.2 g; 405 mmol) was then added over 5 minutes (CAUTION: slightly exothermic reaction, with gas evolution). After 41 h, the mixture was slowly poured into satd NaHCO3 (1 L) at 0° C. The mixture was then completely neutralized by portionwise addition of solid NaHCO3. The mixture was stirred 30 min and precipitated solids were collected by filtration. Organic and aqueous phases of the filtrate were separated, and the aqueous layer was extracted with CH2Cl2 (3×150 mL). Combined organic extracts were concentrated to dryness, combined with the solids collected previously, dissolved in EtOAc, washed (H2O, brine), dried over Na2SO4, filtered through a short pad of Celite and concentrated to dryness. Recrystallization from EtOAc/hexanes yielded 32.61 g (95%) of the title compound as slightly tan crystalline plates: 1H NMR (300 MHz, CD3OD) δ 7.59 (d, J=8.8 Hz, 1H), 7.05 (d, J=2.2 Hz, 1H), 6.92 (dd, J=8.7, 2.4 Hz, 1H), 3.92 (q, J=9.2 Hz, 2H).

reactant | 4-amino-2-(trifluoromethyl)benzonitrile | 162 mmol, 30.09 g | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | NaBH3CN | 340 mmol, 21.35 g | [BH3-]C#N.[Na+]
reactant | TFA | 2.08 mol, 160 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | hydrogen | [H][H] | H2
reactant | Trifluoroacetaldehyde hydrate | 405 mmol, 52.2 g | O.FC(C=O)(F)F
reactant | NaHCO3 | 1 L | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 160 mL | C(Cl)Cl | CH2Cl2
product | 4-[(2,2,2-Trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 32.61 g, 95% | FC(CNC1=CC(=C(C#N)C=C1)C(F)(F)F)(F)F | C10H6F6N2
